* C:\Users\andre.winkel\RPi-HwAB\pcb\simulations\spice\Draft1.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N006 0 N007 vin vin N001 N002 NC_01 N005 N004 NC_02 0 NC_03 0 ADP5054_chan1_2
V1 vin 0 5
R1 N006 0 31.6k
C1 N007 0 1µ
R2 N004 N003 10k
C2 N003 0 0n
R3 N005 0 24k
R4 vout N005 30k
C3 N001 N002 0.1µ
L1 N002 vout 1µ
C4 vout 0 47µ
Rload vout 0 9
.tran 2.5m startup
.lib ADP5054_chan1_2.sub
.backanno
.end
