* C:\Users\andre.winkel\RPi-HwAB-1\pcb\simulations\adp5054.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N006 0 N007 vin vin N001 N002 NC_01 N005 N004 NC_02 0 NC_03 0 ADP5054_chan1_2
X§U2 N012 0 NC_04 vin vin N008 N009 0 N011 P001 NC_05 0 ADP5054_chan3_4
V1 vin 0 5
C1 N001 N002 0.1µ
L2 N002 vout1 1µ
R1 vout1 N005 30k
R2 0 N005 120k
C4 N008 N009 0.1µ
L1 N009 vout2 1µ
C5 vout2 0 47µ
R4 vout2 0 10
R5 0 N011 30k
R6 vout2 N011 15k
R8 N006 0 31.6k
R9 N012 0 31.6k
R10 P001 N010 3.6k
C7 0 N010 6.8n
C9 N007 0 1µ
R3 N004 N003 10k
C6 N003 0 2.2n
C3 vin 0 10µ
C10 vin 0 10µ
C2 vout1 0 47µ
C8 vout1 0 47µ
C11 vout1 0 47µ
C12 vout1 0 47µ
C13 vout1 0 47µ
I1 vout1 0 PULSE(0 0.5 0.01n 0.01n 1n 2n)
.tran 2.5m startup
* vout = 0.8 * (1+rtop/rbot)
* 1V/10R = 0.1A, vccint draws 100mA
* replace with actual cap values and amounts?
.lib ADP5054_chan1_2.sub
.lib ADP5054_chan3_4.sub
.backanno
.end
